US05384411
Example 7--Preparation of 4-Carboxy-2-sulfobenzoic anhydride
A dry 500 ml 3-neck flask was equipped with a condenser, stirrer and thermometer under a nitrogen atmosphere. The vessel was charged with 2-sulfoterephthalic acid (100 g, 447 mmol).and acetic anhydride (127 ml). The solution was stirred at 100° C. for 4 hours and then cooled to room temperature (the reaction mixture became homogeneous at 90° C.). A precipitate which had begun to form at 76° C. was then collected by filtration at room temperature (25° C.) under a N2 atmosphere. It was washed with methylene chloride (5×200 ml) and dried in dessicator under high vacuum for 24 hours. The dry white product melted at 210°-213° C. (Lit 208°-210° C.); 66.8 g (65%).

reactant | 2-sulfoterephthalic acid | 447 mmol, 100 g | S(=O)(=O)(O)C1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H6O7S
reactant | acetic anhydride | 127 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Carboxy-2-sulfobenzoic anhydride | C(=O)(O)C1=CC(=C(C(=O)OC(C2=C(C=C(C=C2)C(=O)O)S(=O)(=O)O)=O)C=C1)S(=O)(=O)O | C16H10O13S2
